US05071859
a. 1-[2-(2-Bromoethoxy)-1-(2-methylphenyl)ethenyl]-4-fluoro-2-methylbenzene
(4-Fluoro-2-methylphenyl)-(2-methylphenyl)acetaldehyde (3.5 g, 0.0444 mol) was dissolved in dry THF (20 ml) and added dropwise to a suspension of sodium hydride (60% oil dispersion) (0.63 g, 0.0158 mol) in dry tetrahydrofuran (30 ml). The mixture was stirred at room temperature for 1 h and heated at reflux for 0.5 h. After cooling 1,2-dibromoethane (12.4 ml, 10 equiv.) was added, and the reaction mixture was allowed to stand at room temperature for 192 h. The reaction mixture was filtered and evaporated. The residue was pumped in vacuo, but still contained ca. 30% starting aldehyde, so the above procedure was repeated.

reactant | (4-Fluoro-2-methylphenyl)-(2-methylphenyl)acetaldehyde | 0.0444 mol, 3.5 g | FC1=CC(=C(C=C1)C(C=O)C1=C(C=CC=C1)C)C | C16H15FO
reactant | sodium hydride | 0.0158 mol, 0.63 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 12.4 ml, 10 equiv. | BrCCBr | C2H4Br2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-[2-(2-Bromoethoxy)-1-(2-methylphenyl)ethenyl]-4-fluoro-2-methylbenzene | BrCCOC=C(C1=C(C=CC=C1)C)C1=C(C=C(C=C1)F)C | C18H18BrFO
